US05703089
A mixture of 0.5 g (0.8 mmol) of N,N'-Bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine and 1 ml of 36% formaldehyde in 100 ml of ethanol was refluxed for 7 hours. The solid was filtered, washed, dried, and recrystallized from toluene. 0.3 g (58%) of N,N'-bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]hexahydropyrimidine were obtained. M.p. 222° C. (toluene).

reactant | N,N'-Bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine | 0.8 mmol, 0.5 g | O=C1N(C(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)CCNCCCNCCN2C(C4=C1C(=CC=3C4=C(C2=O)C=CC3)C=CC=C1)=O | C39H32N4O4
reactant | formaldehyde | 1 ml | C=O | CH2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N'-bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]hexahydropyrimidine | 0.3 g, 58% | O=C1N(C(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)CCN2CN(CCC2)CCN2C(C4=C1C(=CC=3C4=C(C2=O)C=CC3)C=CC=C1)=O | C40H32N4O4
